US07101880B2
Synthesis of 1,1-dioxo-1,2-dihydro-1λ6-thieno[2,3-d]isothiazol-3-one
A mixture of methyl 4-sulfamoylthiophene-3-carboxylate (2.7 g, 12.2 mmol), methanol (12 mL), and a 25% methanolic solution of sodium methylate (3.6 mL) was refluxed for 48 h. The reaction mixture was cooled to room temperature and acidified with concentrated hydrochloride acid, and the precipitated product was collected and washed with water. Recrystallized from water, yielded 400 mg of the title compound. MS: 187.8 (M−1), 189.5 (M+1). 1H NMR (DMSO-d6): 8.34 (d, J=4.4 Hz, 1H), 7.705 (d, J=4.8 Hz, 1H).

reactant | methyl 4-sulfamoylthiophene-3-carboxylate | 12.2 mmol, 2.7 g | S(N)(=O)(=O)C=1C(=CSC1)C(=O)OC | C6H7NO4S2
reactant | sodium methylate | 3.6 mL | C[O-].[Na+]
reactant | hydrochloride | Cl | ClH
solvent | methanol | 12 mL | CO | CH4O
product | 1,1-dioxo-1,2-dihydro-1λ6-thieno[2,3-d]isothiazol-3-one | 400 mg | O=S1(NC(C2=C1C=CS2)=O)=O | C5H3NO3S2
